US04698352
In 12 ml of N,N-dimethylformamide was dissolved 1.7 g of methyl 2-(4-hydroxyphenylaminomethylene)-5-(2-naphthyl)-3-oxo-4-pentenoate, and they were reacted at 140° C. for 2 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform/methanol (19:1 by volume) mixture). The purified oily substance was dissolved in 15 ml of dioxane and the resulting solution was heated to 80° C. To this solution was added dropwise at 80° C. a solution formed by dissolving 1.1 g of 2,3,5,6-tetrachloro-p-benzoquinone in 15 ml of dioxane. After this addition was completed, the solvent was removed by distillation under reduced pressure, and to the residue was added 20 ml of a chloroform/methanol (5:1 by volume) mixed solvent. The crystals thus formed were collected by filtration, washed with 5 ml of the same mixed solvent as mentioned above, and then dried to obtain 0.75 g of methyl 1-(4-hydroxyphenyl)-6-(2-naphthyl)-4-oxo-1,4-dihydronicotinate having a melting point of 280° C. or more.

reactant | methyl 2-(4-hydroxyphenylaminomethylene)-5-(2-naphthyl)-3-oxo-4-pentenoate | 1.7 g | OC1=CC=C(C=C1)NC=C(C(=O)OC)C(C=CC1=CC2=CC=CC=C2C=C1)=O | C23H19NO4
reactant | 2,3,5,6-tetrachloro-p-benzoquinone | 1.1 g | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | methyl 1-(4-hydroxyphenyl)-6-(2-naphthyl)-4-oxo-1,4-dihydronicotinate | 0.75 g | OC1=CC=C(C=C1)N1C=C(C(=O)OC)C(C=C1C1=CC2=CC=CC=C2C=C1)=O | C23H17NO4
